US06166243
After the 3-nitro-4-hydroxybiphenyl is formed as described above, it is then reacted with dimethylsulfate to form 3-nitro-4-methoxybiphenyl, which is then reduced to form 3-amino-4-methoxybiphenyl. The 3-amino-4-methoxybiphenyl is precipitated by the addition of hydrochloric acid solution, forming the desired 3-amino-4-methoxybiphenyl hydrochloride.

reactant | 3-nitro-4-hydroxybiphenyl | [N+](=O)([O-])C=1C=C(C=CC1O)C1=CC=CC=C1 | C12H9NO3
reactant | dimethylsulfate | COS(=O)(=O)OC | C2H6O4S
product | 3-nitro-4-methoxybiphenyl | [N+](=O)([O-])C=1C=C(C=CC1OC)C1=CC=CC=C1 | C13H11NO3
